US08937071B2
K2CO3 (359 mg, 2.60 mmol) was added to a solution of 2-(5-nitro-3-(trifluoromethyl)pyridine-2-yl)acetonitrile (200 mg, 0.865 mmol) in MeCN (10 mL). MeI (3071 mg, 21.63 mmol) was added and the mixture was stirred at 40° C. for 10 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=5:1, Rf=0.5) to yield a light yellow solid of 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanenitrile (73.6 mg, 0.300 mmol, 34.7% yield): 1H NMR (400 MHz, CDCl3) δ: 9.65 (d, J=2.2 Hz, 1H), 9.54 (d, J=2.2 Hz, 1H), 8.86 (d, J=2.2 Hz, 1H), 8.80 (d, J=2.0 Hz, 1H), 4.47 (q, J=7.1 Hz, 1H), 1.92 (s, 2H), 1.78 (d, J=7.1 Hz, 3H); ES-LCMS m/z 246.0 (M+H).

reactant | K2CO3 | 2.60 mmol, 359 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(5-nitro-3-(trifluoromethyl)pyridine-2-yl)acetonitrile | 0.865 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C(=NC1)CC#N)C(F)(F)F | C8H4F3N3O2
reactant | MeI | 21.63 mmol, 3071 mg | CI | CH3I
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanenitrile | 0.300 mmol, 73.6 mg, 34.7% yield | [N+](=O)([O-])C=1C=C(C(=NC1)C(C#N)C)C(F)(F)F | C9H6F3N3O2
